US06750231B2
4-(3-(5-Fluoro-1H-1,2,3-triazol-4-yl)phenyl)-1-hexyl-3,4-dimethylpiperidine
To a solution of 1-hexanoyl-4-(3-(5-fluoro-1H-1,2,3-triazol-4-yl)phenyl)-3,4-dimethylpiperidine (Preparation 30, 20 mg, 0.054 mmol) in diethyl ether (0.8 mL) at 0° C. was added lithium aluminium hydride (1.0 M solution in tetrahydrofuran, 54 μL, 0.054 mmol) dropwise. The solution was then heated at reflux under a nitrogen atmosphere for 30 minutes before it was cooled back to 0° C. The reaction was cautiously quenched by the addition of 1 N sodium hydroxide (0.2 mL) and then ethyl acetate (3.0 mL) and solid sodium hydrogencarbonate were added. The mixture was stirred vigorously for 30 minutes and then filtered, washing with ethyl acetate. The filtrate was concentrated in vacuo and the residue was purified by column chromatography on silica gel eluting with ethyl acetate:hexane (2:1). The title compound was isolated as clear oil (8.0 mg, 40%).

reactant | 1-hexanoyl-4-(3-(5-fluoro-1H-1,2,3-triazol-4-yl)phenyl)-3,4-dimethylpiperidine | 0.054 mmol, 20 mg | C(CCCCC)(=O)N1CC(C(CC1)(C)C1=CC(=CC=C1)C=1N=NNC1F)C | C21H29FN4O
reactant | lithium aluminium hydride | 0.054 mmol, 1.0 M, 54 μL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 0.8 mL | C(C)OCC | C4H10O
product | 4-(3-(5-Fluoro-1H-1,2,3-triazol-4-yl)phenyl)-1-hexyl-3,4-dimethylpiperidine | FC1=C(N=NN1)C=1C=C(C=CC1)C1(C(CN(CC1)CCCCCC)C)C | C21H31FN4
